US04012413
A solution of 0.001 mole of 1-(2-aminopropyl)-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in acetonitrile is successively treated with 0.001 mole each of formaldehyde, acetic acid and sodium cyanoborohydride at room temperature. The mixture is concentrated in vacuo and the residue treated with 25% aqueous ethylene diamine (5 ml.) and methanol (10 ml.) and refluxed under nitrogen for 2 hours. This mixture is concentrated and the residue mixed with water and extracted with chloroform. The chloroform extracts were filtered, evaporated, and crystallized to give 1-[2-(methylamino)propyl]-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepin.

reactant | 1-(2-aminopropyl)-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 0.001 mole | NC(CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)C | C19H17Cl2N5
reactant | formaldehyde | 0.001 mole | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[2-(methylamino)propyl]-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepin | CNC(CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)C | C20H19Cl2N5
